US09119868B2
Step 4: 6-(N-(4-Bromo-3-(hydroxymethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
LiBH4 (1.593 mL, 3.19 mmol) solution (2M in THF) was added dropwise to a solution of methyl 2-bromo-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate (0.76 g, 1.062 mmol) in tetrahydrofuran (6.0 mL) and methanol (0.600 mL) at 0° C. under N2. The mixture was stirred for 3 hours at the same temperature. It was quenched with 1M NaOH and then partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc (2×). The organic phase was washed with brine, dried over Na2SO4. It was concentrated to dryness to give the crude product (>99%) as tan foam which was used for the next step without further purification. LCMS (m/z, ES+)=587 (M+H+).

reactant | LiBH4 | 3.19 mmol, 1.593 mL | [Li+].[BH4-]
reactant | methyl 2-bromo-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate | 1.062 mmol, 0.76 g | BrC1=C(C(=O)OC)C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1 | C28H24BrFN2O6S
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.600 mL | CO | CH4O
product | 6-(N-(4-Bromo-3-(hydroxymethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | >99% | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)CO | C27H24BrFN2O5S
